US07470679B2
(S)-methyl 2-(4-bromo-1-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetate
(S)-Dimethyl 2-((7-bromo-3-chloro-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate (450 mg, 1.072 mmol) was dissolved in thionyl chloride (2.0 M in dichloromethane) (5.0 mL, 10.00 mmol). Reaction stirred at room temperature for 2.5 hours. Mixture was concentrated by roto-vap. Residue was dissolved in ethyl acetate. Material was washed twice with aqueous sodium bicarbonate and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Residue (430 mg, 0.982 mmol) was dissolved in acetonitrile (15 mL). 2,2,2-Trifluoroethylamine (400 μl, 5.03 mmol) was added to the mixture followed by potassium carbonate (195 mg, 1.411 mmol). Mixture was warmed to reflux and held with stirring for 30 minutes. Mixture was cooled to room temperature. Mixture was filtered over celite. Filtrate was concentrated by roto-vap. Residue was dissolved in toluene (15 mL). Acetic acid (500 μl, 8.73 mmol) was added to the mixture. Reaction was warmed to reflux and held with stirring for 14 hours. Mixture was cooled to room temperature. Mixture was diluted with ethyl acetate. Material was washed twice with aqueous sodium bicarbonate and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Silica gel chromatography eluting ethyl acetate-hexanes afforded the title compound as white solid in 46% yield. MS (M−H)−=467.9.

reactant | (S)-Dimethyl 2-((7-bromo-3-chloro-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate | 1.072 mmol, 450 mg | BrC=1C=C(C(=C2C(=NNC12)Cl)CO)C[C@H](C(=O)OC)CC(=O)OC | C15H16BrClN2O5
reactant | thionyl chloride | 10.00 mmol, 2.0 M, 5.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2,2,2-Trifluoroethylamine | 5.03 mmol, 400 μl | FC(CN)(F)F | C2H4F3N
reactant | potassium carbonate | 1.411 mmol, 195 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Acetic acid | 8.73 mmol, 500 μl | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-methyl 2-(4-bromo-1-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetate | 46% yield | BrC1=CC2=C(C=3C(=NNC13)Cl)CN(C([C@@H](C2)CC(=O)OC)=O)CC(F)(F)F | C16H14BrClF3N3O3
